US06175007B1
2-Chloro-4-fluoro-5-isocyanatobenzaldehyde (O-methyl)oxime
411.3 g of diphosgene (2.08 mol) were added dropwise to a solution of 383 g (1.89 mol) of 5-amino-2-chloro-4-fluorobenzaldehyde (O-methyl)oxime in 2 l of toluene. The temperature was then slowly raised to 110° C. in the course of approximately 6 hours so that the evolution of gas proceeded in a controlled manner. The mixture was subsequently refluxed for a further 5 hours. The reaction mixture was then left to cool and finally concentrated. Yield: 432 g.

reactant | diphosgene | 2.08 mol, 411.3 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-amino-2-chloro-4-fluorobenzaldehyde (O-methyl)oxime | 1.89 mol, 383 g | CON=CC1=C(C=C(C(=C1)N)F)Cl | C8H8ClFN2O
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-fluoro-5-isocyanatobenzaldehyde (O-methyl)oxime | CON=CC1=C(C=C(C(=C1)N=C=O)F)Cl | C9H6ClFN2O2
